US04230703
Synthesis of 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid 2,2-dimethyl-1,3-dioxolan-5-ylmethyl ester
Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate (1.5 g) was dissolved in Solketal (20 ml), and 50% oily sodium hydride (0.2 g) was added. The mixture was maintained at 80°-100° C. under reduced pressure using an aspirator. The reaction mixture was poured into water (150 ml) and acetic acid (0.5 ml), and the system was extracted with dichloromethane. The extract was dried over MgSO4, and then, the solvent was distilled off. The residual oily matter was subjected to liquid column chromatography using 100 g of Wakogel C-200 to afford the desired compound as a yellow oily material (0.950 g) eluted with a mixed liquid of benzene-dichloromethane (1:1).

reactant | Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate | 1.5 g | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OC | C18H17NO3
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | water | 150 ml | O | H2O
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | Solketal | 20 ml | CC1(OCC(O1)CO)C | C6H12O3
product | 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid 2,2-dimethyl-1,3-dioxolan-5-ylmethyl ester | CC1(OC(CO1)COC(CC1=CC2=C(N(CC3=C(C2=O)C=CC=C3)C)C=C1)=O)C | C23H25NO5
